US09056832B2
In a 50-ml vial with a screw-top septum, 2-[3-(4-fluoro-phenoxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (0.500 g, 1.59 mmol) was dissolved in 6 ml DME, 3 ml EtOH, and 6 ml water. The boronate was then treated with one equivalent of 4,6-dichloro-pyridine-2-carboxylic acid ethyl ester (Anichem), PdCl2(PPh3)2 (0.078 g, 0.11 mmol), and cesium carbonate (1.04 g, 3.18 mmol). The vial was purged with argon and heated to 90° C. for 10 hours, at which time the reaction was complete. The reaction mixture was diluted with 50 ml water and the aqueous layer acidified with about 10 ml 4N aq. HCl. The desired material was extracted with EtOAc (2×50 ml). The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by combiflash using a 40-gram silica column and a gradient of EtOAc (100% max) in hexane to provide 0.445 g of 4-chloro-6-[3-(4-fluoro-phenoxy)-phenyl]-pyridine-2-carboxylic acid ethyl ester.

reactant | 2-[3-(4-fluoro-phenoxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 1.59 mmol, 0.500 g | FC1=CC=C(OC=2C=C(C=CC2)B2OC(C(O2)(C)C)(C)C)C=C1 | C18H20BFO3
reactant | boronate | B([O-])[O-]
reactant | 4,6-dichloro-pyridine-2-carboxylic acid ethyl ester | one equivalent | C(C)OC(=O)C1=NC(=CC(=C1)Cl)Cl | C8H7Cl2NO2
reactant | cesium carbonate | 3.18 mmol, 1.04 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DME | 6 ml | COCCOC | C4H10O2
catalyst | PdCl2(PPh3)2 | 0.11 mmol, 0.078 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 6 ml | O | H2O
solvent | EtOH | 3 ml | CCO | C2H6O
product | 4-chloro-6-[3-(4-fluoro-phenoxy)-phenyl]-pyridine-2-carboxylic acid ethyl ester | 0.445 g | C(C)OC(=O)C1=NC(=CC(=C1)Cl)C1=CC(=CC=C1)OC1=CC=C(C=C1)F | C20H15ClFNO3
